US04695581
2,6-Diethyl-4-propionylphenol and 4-methoxyphenylhydrazine hydrochloride were treated in the same way as in Example 1 to give 2-(3,5-diethyl-4-hydroxyphenyl)-5-methoxy-3-methylindole.

reactant | 2,6-Diethyl-4-propionylphenol | C(C)C1=C(C(=CC(=C1)C(CC)=O)CC)O | C13H18O2
reactant | 4-methoxyphenylhydrazine hydrochloride | Cl.COC1=CC=C(C=C1)NN
product | 2-(3,5-diethyl-4-hydroxyphenyl)-5-methoxy-3-methylindole | C(C)C=1C=C(C=C(C1O)CC)C=1NC2=CC=C(C=C2C1C)OC | C20H23NO2
